US08133901B2
(R)-[3-(5-Bromo-pyrimidin-2-ylamino)-piperidin-1-yl]-(3′,4′-dimethyl-biphenyl-2-yl)-methanone
prepared by reaction of 3′,4′-dimethyl-biphenyl-2-carboxylic acid with (R)-(5-bromo-pyrimidin-2-yl)-piperidine-3-yl-amine.

reactant | 3′,4′-dimethyl-biphenyl-2-carboxylic acid | CC=1C=C(C=CC1C)C=1C(=CC=CC1)C(=O)O | C15H14O2
reactant | (R)-(5-bromo-pyrimidin-2-yl)-piperidine-3-yl-amine | BrC=1C=NC(=NC1)N[C@H]1CNCCC1 | C9H13BrN4
product | (R)-[3-(5-Bromo-pyrimidin-2-ylamino)-piperidin-1-yl]-(3′,4′-dimethyl-biphenyl-2-yl)-methanone | BrC=1C=NC(=NC1)N[C@H]1CN(CCC1)C(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)C)C | C24H25BrN4O
